US07470723B2
A mixture of (3-benzyloxy-4-methoxy-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone (7.24 g), 20% palladium on charcol (0.22 g, 3% weight), and cyclohexcene (24 mL) in ethanol (48 mL) was refluxed overnight. The black suspension was filtered through a Celite pad, and the filtrate was evaporated to give (3-ethoxy-4-methoxy-phenyl)-(3-hydroxy-4-methoxy-phenyl)-methanone as an off-white solid (5.25 g, 94% yield): 1H NMR (DMSO-d6) δ 1.49 (t, J=7 Hz, 3H, CH2CH3), 3.95 (s, 3H, OCH3), 3.98 (s, 3H, OCH3), 4.16 (q, J=7 Hz, 2H, CH2CH3), 5.69 (s, 1H, OH), 6.87-6.93 (m, 2H, Ar), 7.35-7.43 (m, 4H, Ar). The product was used in the next step without further purification.

reactant | (3-benzyloxy-4-methoxy-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanone | 7.24 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)OCC | C24H24O5
solvent | ethanol | 48 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | (3-ethoxy-4-methoxy-phenyl)-(3-hydroxy-4-methoxy-phenyl)-methanone | 5.25 g, 94% yield | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)O | C17H18O5
